US04757079
Preparation of 1-Methylpiperidine-4-carboxaldehyde
To a deep cold (below -70° C.) solution of methyl 1-methylisonipecotate (15.7 g. 0.1 mol) in 500 mL of hexane was added, dropwise over 1 hr, 100 mL of 1N diisobutylaluminum hydride (DIBAL-H) in hexane. The solution was stirred for 1.5 h, and 20 mL of saturated aqueous ammonium chloride was very slowly added. The reaction mixture was gradually allowed to come to ambient temperature and stirring was continued for an additional hour. To the reaction mixture was added 10 mL of saturated aqueous sodium bicarbonate and the organic layer was decanted. The aqueous layer was extracted with methylene chloride (200 mL×3) and then with ether (200 mL×3). The combined extracts were dried with magnesium sulfate and evaporated to give 10 g (79%) of a pale yellow oil (crude). The crude aldehyde was used for further reaction without purification.

reactant | methyl 1-methylisonipecotate | 0.1 mol, 15.7 g | CN1CCC(C(=O)OC)CC1 | C8H15NO2
reactant | diisobutylaluminum hydride | 1N, 100 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | hexane | 500 mL | CCCCCC | C6H14
product | 1-Methylpiperidine-4-carboxaldehyde | 10 g, 79% | CN1CCC(CC1)C=O | C7H13NO
